US05034417
A solution of 3'-chloro-4'-nitroacetophenone (2.7 g) in toluene (50 ml) was added to a stirred solution of lithium 2-(trifluoromethyl)thiophenoxide [4.4 g; Aust. J. Chem. 32 2313 (1979)]in ether (142 ml) at 0° C. The mixture was stirred at room temperature for 2 hours and refluxed for 20 minutes. The resulting mixtures were added ethyl acetate and water, and the organic layer was washed with water, dried and evaporated. The oily residue was purified by column chromatography on silica gel (70 g) eluting with toluene to give a yellow oil of 4'-nitro-3'-[2-(trifluoromethyl)phenylthio]acetophenone (1.3 g).

reactant | 3'-chloro-4'-nitroacetophenone | 2.7 g | ClC=1C=C(C=CC1[N+](=O)[O-])C(C)=O | C8H6ClNO3
reactant | lithium 2-(trifluoromethyl)thiophenoxide | FC(C1=C([S-])C=CC=C1)(F)F.[Li+]
reactant | ether | 142 ml | CCOCC | C4H10O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 4'-nitro-3'-[2-(trifluoromethyl)phenylthio]acetophenone | 1.3 g | [N+](=O)([O-])C1=C(C=C(C=C1)C(C)=O)SC1=C(C=CC=C1)C(F)(F)F | C15H10F3NO3S
